US07759363B2
Synthesis of 2-isopropyl-1H-benzoimidazole-4-carboxylic acid {1-[1-(2-fluoro-phenylcarbamoyl)piperidin-4-ylmethyl]piperidin-4-ylmethyl}-amide
2-Isopropyl-1H-benzoimidazole-4-carboxylic acid (1-piperidin-4-ylmethylpiperidin-4-ylmethyl)amide (220 mg, 0.55 mmol) was dissolved in N,N-dimethylformamide (2.0 mL) at room temperature. To this solution was added N,N-diisopropylethylamine (143.2 mg, 1.1 mmol) followed by o-fluorophenylisocyanate (75.4 mg, 0.55 mmol). The resulting mixture was stirred at room temperature overnight, concentrated in vacuo and the residue purified by preparative reverse-phase HPLC to afford the bis trifluoroacetate salt of the title compound as a white solid (92.6 mg, 0.12 mmol, 22%). (m/z): [M+H]+ calcd for C30H39FN6O2 535.32; found 535.2. Retention time (anal. HPLC: 2-65% MeCN/H2O over 4 min)=2.09 min.

reactant | 2-Isopropyl-1H-benzoimidazole-4-carboxylic acid (1-piperidin-4-ylmethylpiperidin-4-ylmethyl)amide | 0.55 mmol, 220 mg | N1CCC(CC1)CN1CCC(CC1)CNC(=O)C1=CC=CC=2NC(=NC21)C(C)C | C23H35N5O
reactant | N,N-diisopropylethylamine | 1.1 mmol, 143.2 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | o-fluorophenylisocyanate | 0.55 mmol, 75.4 mg | FC1=C(C=CC=C1)N=C=O | C7H4FNO
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 2-isopropyl-1H-benzoimidazole-4-carboxylic acid {1-[1-(2-fluoro-phenylcarbamoyl)piperidin-4-ylmethyl]piperidin-4-ylmethyl}-amide | 0.12 mmol, 92.6 mg, 22% | FC1=C(C=CC=C1)NC(=O)N1CCC(CC1)CN1CCC(CC1)CNC(=O)C1=CC=CC=2NC(=NC21)C(C)C | C30H39FN6O2
